US06429207B1
Ethyl 4-chloro-6,7-methylenedioxyquinoline-3-carboxylate (18.5 g, 66.2 mmol) was dissolved in dioxane (100 mL) and treated with 50 mL 5 N NaOH and heated at reflux for 2 hour. After this time the solution was concentrated on a rotary evaporator, cooled and extracted with dichloromethane (2×100 mL). The remaining aqueous solution was then acidified with concentrated HCl and the precipitate collected and dried to afford 7 g of crude 4-hydroxy-6,7-methylenedioxyquinoline-3-carboxylic acid hydrochloride.

reactant | Ethyl 4-chloro-6,7-methylenedioxyquinoline-3-carboxylate | 66.2 mmol, 18.5 g | ClC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)OCC | C13H10ClNO4
reactant | NaOH | 5 N, 50 mL | [OH-].[Na+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4-hydroxy-6,7-methylenedioxyquinoline-3-carboxylic acid hydrochloride | 7 g | Cl.OC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)O | InChI=1S/C11H7NO5.ClH/c13-10-5-1-8-9(17-4-16-8)2-7(5)12-3-6(10)11(14)15;/h1-3H,4H2,(H,12,13)(H,14,15);1H
